US07312225B2
1a) Production of [5-(3-Nitro-benzenesulfonylamino)-pentyl]-carbamic acid-tert-butyl ester
4.2 ml (30.1 mmol) of triethylamine is added to a solution of 3.21 g (14.5 mmol) of 3-nitrobenzenesulfonyl chloride and 3.0 ml (14.4 mmol) of N-Boc-1,5-diaminopentane in 50 ml of acetone and 15 ml of water. The reaction mixture is stirred for one hour at room temperature. Then, the acetone is drawn off in a rotary evaporator. After water (20 ml) is added, it is extracted with ethyl acetate (2×). The combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. 5.00 g (12.9 mmol, corresponding to 90% of theory) of the product is obtained as a light yellow oil.

reactant | triethylamine | 30.1 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzenesulfonyl chloride | 14.5 mmol, 3.21 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | N-Boc-1,5-diaminopentane | 14.4 mmol, 3.0 ml | C(=O)(OC(C)(C)C)NCCCCCN | C10H22N2O2
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | water | 15 ml | O | H2O
product | [5-(3-Nitro-benzenesulfonylamino)-pentyl]-carbamic acid-tert-butyl ester | C(C)(C)(C)OC(NCCCCCNS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H25N3O6S
